*****************************************************************
* NXP BUK7K52-60E
*
* Polarity N-Channel
* Ratings 60V/4.500000E-002OHMS/15.4A
*
* Date Created Tue Jul 02 07:09:40 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7K52-60E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 6000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0273055564061626 TC=0.00639572016824345,2.68394413561252E-05
RBD 9 4 0.00240404380150941 TC=0.00639572016824345,2.68394413561252E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 10000000000
CGS 2 6 3.52e-10
RG 1 2 1.9922

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	406.955
+ -10	406.639
+ -8	406.147
+ -6	405.215
+ -5	403.555
+ -4	426.895
+ -3	401.668
+ -2	335.827
+ -1	271.95
+ -0.5	229.712
+ -0.2	194.951
+ -0.1	193.816
+ 0	162.78465
+ 0.1	127.0726
+ 0.2	126.9355
+ 0.5	110.5319
+ 1	99.02688
+ 2	85.36388
+ 3	78.30977
+ 4	74.00925
+ 5	71.01152
+ 6	68.77592
+ 8	65.52644
+ 10	63.14053
+ 12	61.19687
+ 15	58.78483
+ 16	58.04948
+ 20	55.63096
+ 25	53.18836
+ 30	51.25347
+ 40	48.43838



.MODEL MINT NMOS(Vto=3.95238708330744 Kp=1.802545e+001 Nfs=1450000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=1.6635967269226e-13
+ N=1 M=0.59 VJ=0.5 Fc=0.5 Cjo=1.828772e-10 Tt=1.172e-08)

.ENDS

